US06043366
8-(Decahydro-naphthalen-2-yl)-3-methyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride (1:1) (mixture of the diast. racemates)
8-(Decahydro-naphthalen-2-yl)-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride (1:1) (1.2 mmol) was suspended in DMF (20 ml). Sodium hydride (2.4 mmol) was added and the mixture was stirred at 80° C. for 1 h. The mixture was cooled to room temperature, methyl iodide (1.2 mmol) was added and the mixture was stirred for 18 h. DMF was evaporated, sodium bicarbonate and ethylacetate were added. The organic phase was washed with brine, dried with MgSO4 and concentrated. Chromatography on silica gel (methylenchloride/methanol, 98:2) yielded the desired product which was crystallized as its HCl-salt from ethylacetate/ethanol. 0.19 g (36%) 8-(decahydro-naphthalen-2-yl)-3-methyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride (1:1) as a colorless solid, m.p.>250° C. and MS: m/e=382 (M+H+).

reactant | 8-(Decahydro-naphthalen-2-yl)-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | 1.2 mmol | Cl.C1C(CCC2CCCCC12)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1
reactant | Sodium hydride | 2.4 mmol | [H-].[Na+]
reactant | methyl iodide | 1.2 mmol | CI | CH3I
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 8-(Decahydro-naphthalen-2-yl)-3-methyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1C(CCC2CCCCC12)N1CCC2(C(N(CN2C2=CC=CC=C2)C)=O)CC1 | InChI=1S/C24H35N3O.ClH/c1-25-18-27(21-9-3-2-4-10-21)24(23(25)28)13-15-26(16-14-24)22-12-11-19-7-5-6-8-20(19)17-22;/h2-4,9-10,19-20,22H,5-8,11-18H2,1H3;1H
